US09085586B2
A solution of 3,5-diethyl 2-amino-4,5,6,7-tetrahydro-1-benzothiophene-3,5-dicarboxylate (8 g, 26.90 mmol, 1.00 equiv) in formamide (150 mL) was added formamidine acetate (10 g, 96.05 mmol, 3.57 equiv) at room temperature under nitrogen. The resulting solution was stirred for 4 h at 180° C. After cooling, the resulting solution was diluted with 200 mL of EtOAc, washed with water and brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:4) give the desired ethyl 4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate (4.1 g, 55%) as a yellow solid.

reactant | 3,5-diethyl 2-amino-4,5,6,7-tetrahydro-1-benzothiophene-3,5-dicarboxylate | 26.90 mmol, 8 g, 1.00 equiv | NC=1SC2=C(C1C(=O)OCC)CC(CC2)C(=O)OCC | C14H19NO4S
reactant | formamidine acetate | 96.05 mmol, 10 g, 3.57 equiv | C(C)(=O)O.C(=N)N
solvent | formamide | 150 mL | C(=O)N | CH3NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | ethyl 4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate | 4.1 g, 55% | OC=1C2=C(N=CN1)SC1=C2CC(CC1)C(=O)OCC | C13H14N2O3S
